US05004747
A stirred solution of (E)-3-(2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)prop-2-en-1-ol (0.4 g) in dry diethyl ether (125 ml) under an atmosphere of nitrogen was treated with activated manganese dioxide (1.8 g). The mixture was stirred for 4 hours. The manganese dioxide was then filtered off and washed well with diethyl ether (4×100 ml) during 15 minutes. The combined ethereal solutions were evaporated, to give (E)-3-(2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)propenal (0.34 g) in the form of a yellow solid, m.p. 228° C.

reactant | (E)-3-(2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)prop-2-en-1-ol | 0.4 g | CN1C(C2=CC=CC=C2C(=C1/C=C/CO)C1=CC=CC=C1)=O | C19H17NO2
solvent | diethyl ether | 125 ml | C(C)OCC | C4H10O
catalyst | manganese dioxide | 1.8 g | [O-2].[O-2].[Mn+4]
product | (E)-3-(2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)propenal | 0.34 g | CN1C(C2=CC=CC=C2C(=C1/C=C/C=O)C1=CC=CC=C1)=O | C19H15NO2
